US04018824
A solution of 4.4 parts of 3-benzyloxy-1-(tert.butyl)azetidine in 30 parts of ethanol was taken into an autoclave together with 2 parts of Raney nickel as catalyst. Under a hydrogen gas pressure of 100 atmospheres, the mixture was stirred at 40° C. for 15 hours to perform the reduction. The catalyst was separated by filtration, and the remaining ethanol solution was concentrated to dryness. The resulting oily substance was dissolved in n-hexane and cooled. As a result 2.0 parts of 1-(tert.-butyl)-3-azetidinol melting at 42° - 43° C. The yield was 76%. The results of infra-red spectrum analysis and nuclear magnetic resonance analysis of the product are as follows:

reactant | 3-benzyloxy-1-(tert.butyl)azetidine | C(C1=CC=CC=C1)OC1CN(C1)C(C)(C)C | C14H21NO
catalyst | Raney nickel | [Ni] | Ni
solvent | ethanol | C(C)O | C2H6O
product | 1-(tert.-butyl)-3-azetidinol | yield was 76% | C(C)(C)(C)N1CC(C1)O | C7H15NO
